US07173058B2
To a solution of 3-(3,4-bis-difluoromethoxy-phenyl)-3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-propionic acid (400 mg, 0.81 mmol) in tetrahydrofurane (10 ml) was added carbonyldiimidazole (200 mg, 1.21 mmol) at room temperature. The solution was stirred at room temperature for 2 hours. To the mixture was added dimethylamine in THF (0.8 ml, 1.6 mmol). The resulted mixture was stirred at room temperature for 3 hours. Water (20 ml) was added to the reaction mixture. The solvent was removed in vacuo. The resulted mixture was taken up in ethyl acetate (30 ml) and washed with water (20 ml). The organic layer was washed with saturated sodium bicarbonate solution (3×20 ml), water (20 ml), brine (20 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The resulted oil was stirred with ether overnight. The suspension was filtered to give a yellowish solid. The solid was purified by HPLC (CH3CN:Water=45:55) to give cyclopropanecarboxylic acid {2-[1-(3,4-bis-difluoromethoxy-phenyl)-2-dimethylcarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as a white solid (200 mg, 50%): mp, 158–160° C.; 1H NMR (CDCl3): δ 0.86–0.92 (m, 2H, cyclopropyl ring CH2), 1.08–1.12 (m, 2H, cyclopropyl ring CH2), 1.66–1.70 (m, 1H, cyclopropyl ring CH), 2.93 (s, 3H, NCH3), 3.04 (dd, J=5, 15 Hz, 1H, CHHCO), 3.10 (s, 3H, NCH3), 3.64 (dd, J=8, 15 Hz, 1H, CHHCO), 4.13 (t, J=15 Hz, 2H, CHHN), 5.56–5.62 (m, 1H, CHN), 6.51 (t, JH-F=75 Hz, 1H, OCF2H), 6.54 (t, JH-F=75 Hz, 1H, OCF2H), 7.01 (d, J=8 Hz, 1H, Ar), 7.23–7.36 (m, 3H, Ar), 7.44 (t, J=8 Hz, 1H, Ar), 8.43 (d, J=8 Hz, 1H, Ar), 10.52 (s, 1H, NHCO); 13C NMR (CDCl3):8.22, 16.16, 35.58, 35.92, 37.27, 49.59, 53.83, 58.94, 111.0, 115.65, 117.64, 117.67, 119.90, 119.80, 121.66, 122.58, 125.64, 133.27, 138.05, 138.69, 141.49, 169.11, 169.81, 172.65; Anal. Calcd. for C25H25F4N3O5: C, 57.36; H, 4.81; N, 8.03. Found: C, 57.22; H, 4.76; N, 8.11.

reactant | 3-(3,4-bis-difluoromethoxy-phenyl)-3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-propionic acid | 0.81 mmol, 400 mg | FC(OC=1C=C(C=CC1OC(F)F)C(CC(=O)O)N1C(C2=C(C=CC=C2C1)NC(=O)C1CC1)=O)F | C23H20F4N2O6
reactant | carbonyldiimidazole | 1.21 mmol, 200 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
reactant | Water | 20 ml | O | H2O
solvent | tetrahydrofurane | 10 ml | O1CCCC1 | C4H8O
solvent | THF | 1.6 mmol, 0.8 ml | C1CCOC1 | C4H8O
product | cyclopropanecarboxylic acid {2-[1-(3,4-bis-difluoromethoxy-phenyl)-2-dimethylcarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 200 mg, 50% | FC(OC=1C=C(C=CC1OC(F)F)C(CC(N(C)C)=O)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1)F | C25H25F4N3O5
